US09163021B2
(2-bromopyridin-4-yl){1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-pyrrolo[3,2-c]pyridin-3-yl}methanone
Prepared according to the method described for Preparation 37 using 2-bromo-N-methoxy-N-methylisonicotinamide and 3-iodo-1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-pyrrolo[3,2-c]pyridine (Preparation 50).

reactant | 2-bromo-N-methoxy-N-methylisonicotinamide | BrC=1C=C(C(=O)N(C)OC)C=CN1 | C8H9BrN2O2
reactant | 3-iodo-1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-pyrrolo[3,2-c]pyridine | IC1=CN(C2=C1C=NC=C2)CCOC2OCCCC2 | C14H17IN2O2
product | (2-bromopyridin-4-yl){1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-pyrrolo[3,2-c]pyridin-3-yl}methanone | BrC1=NC=CC(=C1)C(=O)C1=CN(C2=C1C=NC=C2)CCOC2OCCCC2 | C20H20BrN3O3
